US08802864B2
b) 4-[4-bromo-3-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
N-[4-bromo-3-(methyloxy)phenyl]-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (500 mg, 0.911 mmol) and potassium carbonate (445 mg, 3.22 mmol) were added to a round-bottom flask and suspended in water (50 mL). The mixture was refluxed overnight at 115° C. Analysis by LCMS indicated formation of desired product (and other major by-products). A white solid (that was not desired product) had collected at the bottom of the flask and was filtered off. The pH of the filtrate was adjusted to ˜6 with 1N aq HCl and was partitioned with ethyl acetate. The aqueous layer was extracted with ethyl acetate (3×) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to an oil. The residue was purified by silica gel chromatography (0-100% ethyl acetate/hexanes, then 0-30% isopropanol/ethyl acetate). The desired fractions were combined and concentrated in vacuo to afford the title product as an off-white solid (151 mg, 38%). MS(ES)+ m/e 421.0, 422.9 M+H]+.

reactant | N-[4-bromo-3-(methyloxy)phenyl]-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 0.911 mmol, 500 mg | BrC1=C(C=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)OC | C18H23BrN4O4
reactant | potassium carbonate | 3.22 mmol, 445 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 mL | O | H2O
product | 4-[4-bromo-3-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=C(C=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)OC | C18H21BrN4O3
